US05864039
Hydrazine monohydrate (11.3 ml) was added to a solution of 4-amino-5-chloro-N-(1-(5-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)pentyl)-piperidin-4-ylmethyl)-2-methoxybenzamide (60 g) in ethanol (0.6 L), and the mixture was refluxed under heating for 4 hr. The precipitated crystals were filtered off, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 37.0 g of 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl) -5-chloro-2-methoxybenzamide.

reactant | Hydrazine monohydrate | 11.3 ml | O.NN
reactant | 4-amino-5-chloro-N-(1-(5-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)pentyl)-piperidin-4-ylmethyl)-2-methoxybenzamide | 60 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C27H33ClN4O4
solvent | ethanol | 0.6 L | C(C)O | C2H6O
product | 4-amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl) -5-chloro-2-methoxybenzamide | 37.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
